US06362211B1
e) 9a-Acetyl-1,2,3,4,4a,9a-hexahydrofluoren-9-one
1,2,3,4,4a,9a-Hexahydrofluoren-9-one (9.6 g) was dissolved in acetic anhydride (40 ml). p-Toluenesulfonic acid (1 g) was added and the mixture was refluxed for 1 hour. The mixture was cooled in an ice bath and water (20 ml) was added. After stirring for 20 minutes solvent was removed with an evaporator. The residue was dissolved in ethyl acetate (60 ml) and extracted with 5% NaHCO3 solution (2×30 ml) and water (30 ml). The organic phase was dried over Na2SO4 and evaporated. Yield was 10.9 g.

reactant | 1,2,3,4,4a,9a-Hexahydrofluoren-9-one | 9.6 g | C1CCCC2C3=CC=CC=C3C(C12)=O | C13H14O
reactant | p-Toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 20 ml | O | H2O
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9a-Acetyl-1,2,3,4,4a,9a-hexahydrofluoren-9-one | C(C)(=O)C12C(C3=CC=CC=C3C2CCCC1)=O | C15H16O2
